US04758566
Preparation of 4-(4-fluorophenyl)carbostyril
To a refluxed solution of 40 g of 2-(4-fluorobenzoyl)acetanilide in 300 ml of ethanol, a sodium ethylate solution, prepared from 9.13 g of sodium and 150 ml of ethanol, is added dropwise over a period of 2 hours. The reaction mixture is refluxed for 20 minutes, allowed to cool and poured onto ice-water. The precipitate is collected, dried and recrystallized from chloroform - diethyl ether to give 31.3 g of the title compound, m.p. 247°-248° C.

reactant | 2-(4-fluorobenzoyl)acetanilide | 40 g | FC1=CC=C(C(=O)CC(=O)NC2=CC=CC=C2)C=C1 | C15H12FNO2
reactant | sodium ethylate solution | CC[O-].[Na+]
reactant | sodium | 9.13 g | [Na] | Na
solvent | ethanol | 300 ml | C(C)O | C2H6O
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 4-(4-fluorophenyl)carbostyril | 31.3 g | FC1=CC=C(C=C1)C1=CC(NC2=CC=CC=C12)=O | C15H10FNO
